US06124281
(c) Diethyl 4-(4-chloro-2-nitrobenzoyl)-1H-pyrazole-3,5-dicarboxylate
Chromium (VI) oxide (17.48 g, 174.8 mmol) was added over 37 minutes to a solution of pyridine (27.6 mL, 349.5 mmol) in dichloromethane (400 mL). Diethyl 4-[(4-chloro-2-nitro-phenyl)hydroxymethyl]-1H-pyrazole-3,5-dicarboxylate (11.56 g, 29.1 mmol) was added as a solid over 9 minutes. The reaction mixture was allowed to stir at room temperature 44 is hours. The solution was filtered and the organic layer was washed with aqueous hydrochloric acid (500 mL, 3N). The aqueous layer was extracted with ethyl acetate (3×250 mL) and dichloromethane (3×250 mL). The resulting organic extracts were combined and concentrated on the rotary evaporator to give a crude solid (10.92 g). The product was purified by chromatography eluting with dichloromethane:2-propanol (98:2, 96:4, and 94:6). The desired product was obtained from the mixed fractions by recrystallization from toluene (250 mL). Clean fractions from chromatography were combined with recrystallized product to give the title compound as a white solid (9.85 g, 86%, mp 168° C.).

reactant | pyridine | 349.5 mmol, 27.6 mL | N1=CC=CC=C1 | C5H5N
reactant | Diethyl 4-[(4-chloro-2-nitro-phenyl)hydroxymethyl]-1H-pyrazole-3,5-dicarboxylate | 29.1 mmol, 11.56 g | ClC1=CC(=C(C=C1)C(C=1C(=NNC1C(=O)OCC)C(=O)OCC)O)[N+](=O)[O-] | C16H16ClN3O7
solvent | dichloromethane | 400 mL | ClCCl | CH2Cl2
catalyst | Chromium (VI) oxide | 174.8 mmol, 17.48 g | [O-2].[Cr+6].[O-2].[O-2]
product | Diethyl 4-(4-chloro-2-nitrobenzoyl)-1H-pyrazole-3,5-dicarboxylate | ClC1=CC(=C(C(=O)C=2C(=NNC2C(=O)OCC)C(=O)OCC)C=C1)[N+](=O)[O-] | C16H14ClN3O7
